US06235778B1
d) 3-[5-Methyl-3-(2-(4-methylpiperazinylsulfonyl)phenylsulfonyloxy)phenoxy]propoxyamine
A mixture 3-[5-methyl-3-(2-(4-methylpiperazinylsulfonyl)phenylsulfonyloxy)phenoxy]propoxyphthalimide (156 mg, 0.25 mmol), as prepared in the previous step, and 40% aqueous methylamine (1.50 mL, 21.5 mmol) in tetrahydrofuran (5 mL) and ethanol (5 mL) was stirred at room temperature for 4 hours. The solution was concentrated and the residue was purified by flash chromatography (10% methanol in dichloromethane) giving a slurry that was twice dissolved in diethyl ether, filtered, and concentrated giving the title compound as a clear oil (113 mg, 91%). 1H NMR (300 MHz, CDCl3/CD3OD) δ8.22 (dd, 1H, J=7.9, 1.3 Hz), 8.18 (dd, 1H, J=7.9, 1.4 Hz), 7.83 (td, 1H, J=7.7, 1.4 Hz), 7.70 (td, 1H, J=7.7, 1.3 Hz), 6.60 (br s, 1H), 6.56 (br s, 1H), 6.53 (t, 1H, J=2.1 Hz), 3.93 (t, 2H, J=6.3 Hz), 3.80 (t, 2H, J=6.2 Hz), 3.41 (m, 5H), 2.50 (br t, 4H, J=4.9 Hz), 2.30 (s, 3H), 2.24 (s, 3H), 2.00 (pentet, 2H, J=6.2 Hz).

reactant | 3-[5-methyl-3-(2-(4-methylpiperazinylsulfonyl)phenylsulfonyloxy)phenoxy]propoxyphthalimide | 0.25 mmol, 156 mg | CC=1C=C(C=C(OCCCOC2=C3C(C(=O)NC3=O)=CC=C2)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C | C29H31N3O9S2
reactant | methylamine | 21.5 mmol, 1.50 mL | CN | CH5N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[5-Methyl-3-(2-(4-methylpiperazinylsulfonyl)phenylsulfonyloxy)phenoxy]propoxyamine | 113 mg, 91% | CC=1C=C(C=C(OCCCON)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C | C21H29N3O7S2
